US05665747
1-(2,4-Dimethyl-5-thiazolyl)-1-(4-methyl-2-thiazolyl)ethanol
n-Butyllithium (2.5M solution in hexanes, 5.1 ml ) was added dropwise to a stirred solution of 4-methyl-2-trimethylsilylthiazole (from 4-methylthiazole, n-butyllithium and trimethylsilylchloride) (2 g) in anhydrous tetrahydrofuran (40 ml ) at -70° C. under an atmosphere of dry nitrogen. After 30 minutes, 5-acetyl-2,4-dimethylthiazole (2 g) in tetrahydrofuran (10 ml) was added dropwise. After 1 hour the mixture was allowed to warm to room temperature. After a further 2 hours, saturated aqueous ammonium chloride solution was added. The organic phase was separated, washed, dried and evaporated. The residue was dissolved in tetrahydrofuran (2 ml) and tetrabutylammonium fluoride (640 mg) was added. The mixture was stirred overnight and then worked up in the usual fashion to give the title compound.

reactant | n-Butyllithium | 2.5M, 5.1 ml | C(CCC)[Li]
reactant | 4-methyl-2-trimethylsilylthiazole | 2 g | CC=1N=C(SC1)[Si](C)(C)C | C7H13NSSi
reactant | 5-acetyl-2,4-dimethylthiazole | 2 g | C(C)(=O)C1=C(N=C(S1)C)C | C7H9NOS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2,4-Dimethyl-5-thiazolyl)-1-(4-methyl-2-thiazolyl)ethanol | CC=1SC(=C(N1)C)C(C)(O)C=1SC=C(N1)C | C11H14N2OS2
